US07728030B2
(R)-t-Butyl 1-(2,3-dihydrobenzofuran-6-yl)-1-oxopropan-2-ylcarbamate (306d)
Magnesium (711 mg, 29.3 mmol) was placed in a screw-cap reaction tube, and a solution of 6-bromo-2,3-dihydrobenzofuran (4.16 g, 20.9 mmol) in tetrahydrofuran (30 mL) was added, followed by a small crystal of iodine. The tube was sealed and flushed with argon. The mixture was heated at 60° C. for 1 h, and then the reaction mixture was allowed to cool to r.t. A slurry of (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (4.85 g, 20.9 mmol) in THF (20 ml) was cooled on a acetone/ice bath to −10° C., and a solution isopropylmagnesium chloride (2 M in THF, 10.5 mL, 21 mmol) was slowly added. The mixture was stirred for 15 min, the cooling bath was removed. Stirring was continued for 10 min. Then the preformed Grignard reagent was added in small portions with stirring. After the addition the mixture was allowed to reach r.t. and stirred for 2 h. The solvent was evaporated, and the mixture was poured into an ice-cold ethyl acetate (150 ml) and aq. HCl (1M, 35 ml) mixture. The organic layer was separated, washed with water and brine, filtered, and evaporated. The product was purified by flash chromatography on silica with ethyl acetate/n-heptane (3:7) to give 2.21 g (36%) of the subtitle compound.

reactant | Magnesium | 29.3 mmol, 711 mg | [Mg] | Mg
reactant | 6-bromo-2,3-dihydrobenzofuran | 20.9 mmol, 4.16 g | BrC1=CC2=C(CCO2)C=C1 | C8H7BrO
reactant | iodine | II | I2
reactant | (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 20.9 mmol, 4.85 g | CON(C([C@H](C)NC(OC(C)(C)C)=O)=O)C | C10H20N2O4
reactant | isopropylmagnesium chloride | 21 mmol, 2 M, 10.5 mL | C(C)(C)[Mg]Cl
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (R)-t-Butyl 1-(2,3-dihydrobenzofuran-6-yl)-1-oxopropan-2-ylcarbamate | 2.21 g, 36% | O1CCC2=C1C=C(C=C2)C([C@@H](C)NC(OC(C)(C)C)=O)=O | C16H21NO4
